US07884124B2
Under N2, to 9 mL of glacial acetic acid were added N,N-dimethylamine (40% aqueous solution) (437 mg, 9.94 mmol), formaldehyde (37% aqueous solution) (283 mg, 9.90 mmol), and methyl 4H-thieno[3,2-b]pyrrole-5-carboxylate (1.8 g, 9.94 mmol). The temperature was kept between 0-5° C. while the components were added. The reaction mixture was heated at reflux for 1 h, and then allowed to stand at rt for 12 h. The mixture was poured onto 30 g of ice, and was brought to pH 10 by careful addition of 10% sodium hydroxide. The temperature was not allowed to exceed 10° C. while the base was added. The gummy substance that precipitated solidified when stored in the refrigerator overnight. The solid was collected and dried in a vacuum. It was recrystallized from petroleum ether (30-60° C.) to yield methyl 6-[(dimethylamino)methyl]-4H-thieno[3,2-b]pyrrole-5-carboxylate (1.65 g, 70%). 1H NMR (400 MHz, CDCl3) δ ppm 2.36 (s, 6H) 3.86 (s, 3H) 3.89 (s, 2H) 6.85 (d, J=5.32 Hz, 1H) 7.28 (d, J=5.32 Hz, 1H) 9.84 (s, 1H).

reactant | N,N-dimethylamine | 9.94 mmol, 437 mg | CNC | C2H7N
reactant | formaldehyde | 9.90 mmol, 283 mg | C=O | CH2O
reactant | methyl 4H-thieno[3,2-b]pyrrole-5-carboxylate | 9.94 mmol, 1.8 g | S1C=CC=2NC(=CC21)C(=O)OC | C8H7NO2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 9 mL | C(C)(=O)O | C2H4O2
product | methyl 6-[(dimethylamino)methyl]-4H-thieno[3,2-b]pyrrole-5-carboxylate | 1.65 g, 70% | CN(C)CC=1C2=C(NC1C(=O)OC)C=CS2 | C11H14N2O2S
